US05707987
To a solution of (2S,4S)-4-acetylthio-1-p-nitrobenzyloxycarbonyl-2-(4-sulfamoylphenyl)thiomethylpyrrolidine (1.48 g, 2.82 mmol) in a mixture of methanol (30 ml) with chloroform (30 ml), 1N aqueous NaOH (3.11 ml, 3.11 mmol) was added in a nitrogen stream at 5° C., and the resulting reaction solution was stirred at the same temperature for 1 hour. The reaction solution was neutralized with 1N aqueous HCl (3.11 ml, 3.11 mmol), and the solvent was distilled off in vacuo. To a solution of the residue and p-nitrobenzyl (1R,5S,6S)-2-diphenylphosphoryloxy-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (2.24 g, 3.78 mmol) in acetonitrile (50 ml), DIPA (0.78 ml, 4.48 mmol) was added, and the reaction solution was stirred at 5° C. overnight. To the reaction solution, ethyl acetate was added. The solution was washed successively with water, 10% aqueous citric acid, saturated aqueous sodium hydrogencarbonate and saturated aqueous sodium chloride. Then, it was dried over anhydrous sodium sulfate, and the solvent was distilled off in vacuo. The resulting residue was purified by silica gel column chromatography (heptane-ethyl acetate) to give p-nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-[(3S,5S)-1-p-nitrobenzyloxycarbonyl-5-(4-sulfamoylphenylthiomethyl)pyrrolidin-3-ylthio)-1-carbapen-2-em-3-carboxylate (1.57 g, yield: 67%).

reactant | (2S,4S)-4-acetylthio-1-p-nitrobenzyloxycarbonyl-2-(4-sulfamoylphenyl)thiomethylpyrrolidine | 2.82 mmol, 1.48 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CSC1=CC=C(C=C1)S(N)(=O)=O | C21H23N3O7S3
reactant | NaOH | 3.11 mmol, 1N, 3.11 ml | [OH-].[Na+]
reactant | HCl | 3.11 mmol, 1N, 3.11 ml | Cl | ClH
reactant | p-nitrobenzyl (1R,5S,6S)-2-diphenylphosphoryloxy-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | 3.78 mmol, 2.24 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)OC=1[C@@H]([C@@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C29H27N2O8P
reactant | methanol | 30 ml | CO | CH4O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | p-nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-[(3S,5S)-1-p-nitrobenzyloxycarbonyl-5-(4-sulfamoylphenylthiomethyl)pyrrolidin-3-ylthio)-1-carbapen-2-em-3-carboxylate | 1.57 g, yield: 67% | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@@H]2CN([C@@H](C2)CSC2=CC=C(C=C2)S(N)(=O)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C36H37N5O12S3
